US05300642
To a stirred mixture of 2-tetralone (4.4 g, 0.03 mol), 4-picolylchloride hydrochloride (10.82 g, 0.066 mol), and benzyltriethylammonium chloride (1.4 g, 0.006 mol) in 80 ml of benzene was added 1N sodium hydroxide (178 ml, 0.178 mol) dropwise during a period of 1 h. at room temperature. Stirring was continued for another hour. Additional benzene (80 ml) was added, the organic layer was separated, and dried over sodium sulfate. The inorganic salts were filtered off, and to the filtrate was added 5 g of Florisil/(a magnesium silicate adsorbent). The mixture was stirred for 30 min., the solids were filtered off, and the benzene was removed by rotary evaporation. The oily residue was dissolved in the minimum amount of ethanolic HCl (5 ml), and a small amount of acetone was added, whereupon the dihydrochloride salt crystallized out of solution. This salt was collected (1.57 g), redissolved in water, and made basic with potassium carbonate. The solids obtained were air dried (900 mg), and recrystallized from cyclohexane to give 1,1-bis(4-pyridinylmethyl)-2(1H)-naphthalenone as a white solid, 460 mg, m.p. 111°-112°. NMR (200 MHz, CDCl3) δ 1.9 (m, 4H); 3.30 (d, 4H); 6.55 (d, 4H); 6.95 (d, 1H); 7.15 (t, 1H); 7.45 (t, 1H); 7.66 (d, 1H); 8.30 (d, 4H). IR (nujol) 1709 cm-1. Analysis. Calcd. for C22H20N2O: C, 80.46; H, 6.14; N, 8.53. Found: C, 80.12; H, 6.25; N, 8.61.

reactant | 2-tetralone | 0.03 mol, 4.4 g | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | 4-picolylchloride hydrochloride | 0.066 mol, 10.82 g | Cl.N1=CC=C(C=C1)CCl
reactant | sodium hydroxide | 0.178 mol, 1N, 178 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 0.006 mol, 1.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 1,1-bis(4-pyridinylmethyl)-2(1H)-naphthalenone | N1=CC=C(C=C1)CC1(C(C=CC2=CC=CC=C12)=O)CC1=CC=NC=C1 | C22H18N2O
